US06551469B1
Preparation of CF3CH2CF2Cl (HCFC-235fa)
The reactor described above was cooled and maintained at about 0° C. during the photochlorination reaction. Initially, the reactor was purged of air using nitrogen. Chlorine gas was then introduced to displace the nitrogen. Thereafter, 335 g (2.5 mol) of CF3CH2CHF2 (HFC-245fa) was charged to the reactor. A total of 208 g (2.9 mol) of chlorine gas was bubbled into the CF3CH2CHF2 over a period of about 24 hours while the reactants were being irradiated. At the end of the 24 hour period, GC analysis indicated a 96% conversion of HFC-245fa (retention time 1.9 min) to the desired product HCFC-235fa (retention time 2.1 min). The reaction mixture was washed with 100 mL of a cooled (about 2° C.) solution of aqueous sodium bisulfite (10 wt. %) and distilled (boiling point=26-28° C.) to afford 383 g CF3CH2CF2Cl (yield, 91%). Absent cooling of the wash solution, loss of product by vaporization has been observed due to a slight exotherm during the washing step. No multichlorinated products were detected.

reactant | CF3CH2CHF2 | 2.5 mol, 335 g | C(F)(F)(F)CC(F)F | C3H3F5
reactant | chlorine | 2.9 mol, 208 g | ClCl | Cl2
reactant | HFC-245fa | C(C(F)F)C(F)(F)F | C3H3F5
product | CF3CH2CF2Cl | C(F)(F)(F)CC(F)(F)Cl | C3H2ClF5
